Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH of TIA, HTN, HLD, and T2DM presents as transfer 
from ___ following a syncopal fall with facial 
fractures. Fall occurred earlier today around 5pm as patient was 
leaving barber shop. Throughout day, patient had been feeling 
nauseous and somewhat lightheaded. Stepping out of barber shop, 
patient says he blacked out, fell, then regained consciousness 
after hitting face against pavement. He had epistaxis that has 
since resolved.

Patient taken to ___ where work up revealed left maxillary sinus 
fractures as well as ___ fractures of the two frontal upper 
teeth. CT head and C-spine were negative for fracture. He was 
tachycardic (107) with Tmax to 100.8 and as given Unasyn prior 
to transfer to ___ for evaluation of facial fractures. Initial 
cardiac work up there was unrevealing.

On evaluation, patient complains of soreness in his face but 
otherwise has no other symptoms. He endorses prior episode of 
TIA in the past manifested as vision loss in his left eye but 
does not think a TIA was antecedent to this fall. He has no 
history of seizures or cardiac disease. He is not on any 
anticoagulants.
 
Past Medical History:
PMH: hx of TIA, GERD, HTN, DM2, HLD, 
PSH: None  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission PHYSICAL EXAM:
VS - 98.8, 64, 113/72, 18, 98%RA GCS 15
GENERAL: NAD, appropriate & conversational
HEENT: NCAT. PERRL & EOMI. No hemotypanum, nares with dried 
blood, oral cavity clear. Fracture of two front upper teeth. No 
facial tenderness. Dry mucous membranes. Multiple abrasions on 
nose and chin.
NECK: trachea midline 
CV: RRR, no murmurs. Palpable bilateral radial, ___ pulses.   
CHEST: non-labored effort. CTAB. No clavicular, sternal, or 
chest wall tenderness. Absent crepitus   
ABDOMEN: soft, non-tender, non-distended 
BACK: no vertebral tenderness or step-offs
MSK: intact ROM at all joints. No obvious deformities or joint 
tenderness
EXT: warm, well-perfused.
SKIN: multiple abrasions on bilateral knuckles on hands
NEURO: A&Ox3. CNII-XII intact. Speech clear and coherent. Moves 
all extremities spontaneously with ___ strength. Sensation 
intact.

Discharge Physical Exam
VS: 99.2, 82, 140/81, 18, 100% RA
N: PERRL. Left eye strabismus. Moves all extremities equal and 
strong. 
HEENT: multiple abrasions to left side of eye and face. trachea 
midline. soft, supple no lumps. no neck tenderness with 
palpation. full ROM.
C/V: RRR.
Lungs: CTA
Abd: obese. soft, non-distended, non-tender. active bowel sounds 
x 4 quadrants. 
Skin: grossly intact.  Scabbed, dry, no drainage. abrasion to 
right hand scabbed and dry.
Ext: Warm and dry. No edema. calves soft/non-tender.
 
Pertinent Results:
___ 12:57AM BLOOD WBC-16.6* RBC-4.29* Hgb-12.7* Hct-36.9* 
MCV-86 MCH-29.6 MCHC-34.4 RDW-14.1 RDWSD-43.9 Plt ___
___ 12:57AM BLOOD Neuts-95.0* Lymphs-1.7* Monos-2.2* 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-15.78* AbsLymp-0.28* 
AbsMono-0.37 AbsEos-0.00* AbsBaso-0.06
___ 12:57AM BLOOD Glucose-177* UreaN-24* Creat-0.8 Na-138 
K-3.9 Cl-103 HCO3-20* AnGap-19
___ 01:02AM BLOOD Lactate-2.8*
___ 12:57AM BLOOD cTropnT-<0.01

___ CT Sinus:
1. Multiple facial fractures including left-sided ___ Fort type 
II, as 
described above.  Fracture line involves the inferior left 
orbital wall 
without imaging evidence of extraocular muscle entrapment. 
2. Isolated fracture of the right lateral pterygoid plate. 
3. Acute blood products layering in the left maxillary sinus. 
Other details as above. 

___ CT Head w/o contrast:
1. No acute intracranial process.  No intracranial hemorrhage. 
2. Re-demonstration of left LeFort II fracture and isolated 
right lateral 
pterygoid plate fractures, better assessed on recent CT facial 
bones. 
3. Unchanged acute blood layering the left maxillary sinus.  
Left maxillary 
sinus mucous retention cyst. 

___ CXR PA/LAT:
There is no pneumothorax or 
pleural effusion. 

___ CT SINUS/MANDIBLE/MAXIL
1. Multiple facial fractures including left-sided ___ Fort type 
II, as 
described above.  Fracture line involves the inferior left 
orbital wall 
without imaging evidence of extraocular muscle entrapment. 
2. Isolated fracture of the right lateral pterygoid plate. 
3. Acute blood products layering in the left maxillary sinus. 
Other details as above. 

___. Unremarkable CTA of the neck. 
2. Previously known fractures involving the right pterygoid 
plate, left 
lateral orbital wall, left maxillary sinus are again seen. 
3. Mildly enlarged cervical lymph nodes bilaterally measuring up 
to 1 cm, 
indeterminate, likely reactive in etiology.  Clinical 
correlation can be 
performed. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presented to ___ emergency 
department s/p fall with a syncopal episode. CT images showed 
left maxillary sinus and bilateral pterygoid plate fracture, ___ 
___ Type II fractures, and two front teeth fractures. He was 
admitted to the ___/trauma service. ___ was consulted and 
recommended chlorhexadine oral rinse BID and outpatient follow 
up with his dentist and the ___ clinic. Plastic surgery was 
consulted for the facial fractures and recommended sinus 
precautions and follow up with plastic surgery clinic in 1 week. 
Ophthalmology was consulted for the orbital fracture and 
recommended non-urgent follow up with his local ophthalmologist 
within 3 months. His urine culture was negative for infection. 
Troponin levels were checked related to syncope and negative and 
his chest x-ray was unremarkable.On HD2, a neck CTA was obtained 
and showed patent carotid and vertebral arteries with no  
evidence of stenosis.  The patient remained hemodynamically 
stable and was admitted to the floor for further management. Per 
the patient, he had recently undergone an extensive syncope work 
up at an outside hospital and was followed closely by his 
primary care provider. Therefore, further syncope workup at this 
time was not deemed necessary and the patient plans follow up 
with his doctor.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was well controlled with acetaminophen and 
oxycodone.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Orthostatic 
vital signs were within normal limit.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was able to tolerate a soft regular diet. 
Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. Follow up appointments were 
made with the consulting services. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO QAM 
2. Lisinopril 20 mg PO QAM 
3. Hydrochlorothiazide 12.5 mg PO QAM 
4. MetFORMIN (Glucophage) 500 mg PO QHS 
5. Amlodipine 5 mg PO QPM 
6. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1. Amlodipine 5 mg PO QPM 
2. Atorvastatin 40 mg PO QPM 
3. Hydrochlorothiazide 12.5 mg PO QAM 
4. Lisinopril 20 mg PO QAM 
5. MetFORMIN (Glucophage) 500 mg PO QHS 
6. Omeprazole 20 mg PO QAM 
7. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
8. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID:PRN 
oral hygiene 
RX *chlorhexidine gluconate 0.12 % Swish and spit twice a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left maxillary sinus and bilateral pterygoid plate fracture, ___ 
Fort Type II fractures & two front teeth fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after injuries sustained for a fall. 
CT imaging revealed facial fractures and damage to your teeth. 
The oral and maxillofacial surgery team was consulted and 
recommended no surgery at this time and you should follow up in 
1 week in their clinic. You also have injury to your teeth which 
you should see your general dentist for further repair. The 
plastic surgery team was consulted for your facial fractures and 
recommended sinus precautions and outpatient follow up to 
discuss surgery once your swelling is improved. Since you had 
injury around your eye, the ophthalmology service evaluated your 
and your vision is intact. You should follow up with your local 
ophthalmologist on a non-urgent basis within 3 months. Your fall 
was the result  of a syncopal episode. Because of your recent 
medical work up for this issue, it does not need to be repeated 
at this time. Please follow up with your primary care provider.

You are doing well and ready to go home to continue your 
recovery. Please note the following discharge instructions.

Sinus Precautions:
Certain precautions will assist healing and we ask that you 
faithfully follow these instructions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 
Followup Instructions:
___